US04785090
6 g of the obtained N-t-butoxycarbonyl DL-homoserine was dissolved in 100 ml of methylene chloride, and 50 ml of a methylene chloride solution containing 6 g of diphenyldiazomethane was added dropwise thereto over an hour. After completion of the reaction, the reaction mixture was concentrated to a small volume, and petroleum ether was added thereto. The formed crystals were filtered off to obtain 8.6 g of N-t-butoxycarbonyl DL-homoserine benzhydryl ester.

reactant | N-t-butoxycarbonyl DL-homoserine | 6 g | C(C)(C)(C)OC(=O)NC(CCO)C(=O)O | C9H17NO5
reactant | diphenyldiazomethane | 6 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl DL-homoserine benzhydryl ester | 8.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(C(NC(=O)OC(C)(C)C)CCO)=O | C22H27NO5
